US08536157B2
5-(Bromomethyl)benzo[c][1,2,5]oxadiazole (0.441 g, 2.07 mmol) was added to a solution of N-hydroxyphthalimide (0.336 g, 2.06 mmol) in dry tetrahydrofuran (15 ml). N,N-Diisopropylethylamine (0.519 g, 4.02 mmol) was added and the solution was stirred at reflux under nitrogen for 23 h and cooled to room temperature. The suspension was concentrated in vacuo to a pale beige solid. This was diluted with water and filtered. The residue was washed with plenty of water and dried under vacuum to give (benzo[c][1,2,5]oxadiazol-5-yl)methoxyphthalimide (0.571 g, 94%).

reactant | 5-(Bromomethyl)benzo[c][1,2,5]oxadiazole | 2.07 mmol, 0.441 g | BrCC1=CC=2C(=NON2)C=C1 | C7H5BrN2O
reactant | N-hydroxyphthalimide | 2.06 mmol, 0.336 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | N,N-Diisopropylethylamine | 4.02 mmol, 0.519 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | (benzo[c][1,2,5]oxadiazol-5-yl)methoxyphthalimide | 0.571 g, 94% | N=1ON=C2C1C=CC(=C2)COC2=C1C(C(=O)NC1=O)=CC=C2 | C15H9N3O4
